US04304785
150 g ferric chloride in 400 ml water are added to a solution of 100 g (E)-isoeugenol in 1.3 liter 75 percent ethanol and allowed to stand for 24 hours at 0° C. The resulting sediment is filtered off and recrystallized from ethanol, resulting in 53 g trans-2,3-dihydro-2-(4-hydroxy-3-methoxyphenyl-7-methoxy3-methyl-5-(E)-propenylbenzofuran ("dehydrodiisoeugenol") as colorless crystals; melting point 132°-133° C.

reactant | (E)-isoeugenol | 100 g | C=1(C(O)=CC=C(\C=C\C)C1)OC | C10H12O2
solvent | water | 400 ml | O | H2O
solvent | ethanol | 1.3 liter | C(C)O | C2H6O
product | 4-hydroxy-3-methoxyphenyl-7-methoxy3-methyl-5-(E)-propenylbenzofuran | OC1=C(C=C(C=C1)C=1OC2=C(C1C)C=C(C=C2OC)\C=C\C)OC | C20H20O4
